US06107291
1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester was synthesized from 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert butyl ester in the same manner as the procedures used for the preparation of 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-azepane-2-carboxylic acid tert-butyl ester: MS (M+H)+ =490, (M+NH4)+ =507.

reactant | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1CO)S(=O)(=O)C1=CC=C(C=C1)OC | C19H27NO6S
reactant | 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCCC1CSC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C25H33NO5S2
product | 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1CSC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C25H31NO5S2
